US09260425B2
A mixture of 234 mg (0.54 mmol) of 3-(1-benzyl-1H-pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine, 3.0 ml (32 mmol) of 1,4-cyclohexadiene and 400 mg of 20% palladium hydroxide on carbon was heated to reflux for 8 hours. The mixture was filtered, the filtrate concentrated in vacuum to afford 106 mg (31%) of 3-(1H-Pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine over three steps. ESI MS m/z 347.1 (M+1).

reactant | 3-(1-benzyl-1H-pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.54 mmol, 234 mg | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C26H24N6O
reactant | 1,4-cyclohexadiene | 32 mmol, 3.0 ml | C1=CCC=CC1 | C6H8
catalyst | palladium hydroxide on carbon | 400 mg | [OH-].[OH-].[Pd+2]
product | 3-(1H-Pyrazol-4-yl)-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 106 mg, 31% | N1N=CC(=C1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C19H18N6O
